US05236912
Analogously to Example 6(b), 10.0 g of 15α-hydroxy-4-(phenylthiomethyl)androst-4ene-3,17-dione is treated with Raney nickel, thus isolating 4.8 g of 15α-hydroxy-4-methylandrost-4ene-3,17-dione as a foam.

reactant | 15α-hydroxy-4-(phenylthiomethyl)androst-4ene-3,17-dione | 10.0 g | O[C@H]1CC([C@]2(C)[C@@H]1[C@@H]1CCC3=C(C(CC[C@]3(C)[C@H]1CC2)=O)CSC2=CC=CC=C2)=O | C26H32O3S
catalyst | Raney nickel | [Ni] | Ni
product | 15α-hydroxy-4-methylandrost-4ene-3,17-dione | 4.8 g | O[C@H]1CC([C@]2(C)[C@@H]1[C@@H]1CCC3=C(C(CC[C@]3(C)[C@H]1CC2)=O)C)=O | C20H28O3
